US06180635B2
a) 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid
1M Sodium hydroxide solution (7.5 ml) was added to a stirred solution of ethyl 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate (1.50 g) in methanol (7.5 ml) and tetrahydrofuran (15 ml). After 16 hours, further 1M sodium hydroxide solution (7.5 ml) was added and the solution was stirred at 50° C. for a further 8 hours. Water (100 ml) was added and the solution was washed with ether (100 ml). The aqueous phase was acidified by addition of concentrated hydrochloric acid and then extracted with ethyl acetate (2×100 ml). Undissolved solid in the organic extracts was filtered and dried in vacuo at 50° C. to give the title compound (1.00 g).

reactant | Sodium hydroxide | 1M, 7.5 ml | [OH-].[Na+]
reactant | ethyl 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate | 1.50 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC=C2)C(=O)OCC)CC(C)C)=O | C21H24N2O4S
reactant | sodium hydroxide | 1M, 7.5 ml | [OH-].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | methanol | 7.5 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid | 1.00 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC=C2)C(=O)O)CC(C)C)=O | C19H20N2O4S
